US05789580
Elemental fluorine gas (3.4 mmol diluted to a 10% solution in nitrogen) was bubbled slowly through a mixture of phenyl-1-thio-β-D-glucopyranoside tetraacetate (0.75 g, 1.7 mmol) and iodine (0.86 g, 3.4 mmol) in dry acetonitrile (15 ml). After the addition of fluorine was complete the solution was poured into 10% sodium metabsulfite and extracted with dichloromethane. The organic layer was washed sequentially with 10% sodium bicarbonate and water, dried (MgSO4) and evaporated to a thick yellow syrup. 19F nmr analysis of the product mixture showed the presence of both anomers with ratio α:β=1:6. Purification of the product mixture by column chromatography on silica gel with ethyl acetate: petroleum ether (1:1) as eluant yielded pure β-D-glucopyranosyl fluoride tetraacetate (320mg, 54%) as white crystals; m.p. 87°-88° C. from ether [lit. 89° C.]; [α]D +20.8 (lit., [α]D 20.0); RF 0.52; (Found: C, 47.7; H, 5.55. Calc. for C14H19O9F: C, 48.0, H, 5.4%); δH (400 MHz, CDCl3, Me4Si) 2.04, 2.05, 2.10, 2.11 (each 3H, s, CH3 groups), 3.90 (1H, d d d, J4,5 9.4, J5,6a 4.8, J5,6b 2.8, H-5), 4.22 (1H, d d, J6a,6b 12.4, J5,6b 2.8, H-6b), 4.27 (1H, d d, J6a,6b 12.4, J5,6a 4.4, H-6a), 5.11 (1H, m, H-2), 5.21 (2H, m, H-3,4), 5.37 (1H, d d, 1JH,F 52.4, JH1,H2 5.4, H-1); δC (100 MHz, CDCl3, Me4Si) 20.6 ppm and 20.7 (s, CH3 groups overlapping), 61.7 (s, C-6), 67.4 (s, C-4), 71.1 (d, 2JC,F 28.6, C-2), 71.8 (d, 3JC,F 8.4, C-3), 72.0 (d, 3JC,F 4.2, C-5), 106.2 (d, 1JC,F 219.7, C-1), 169.1, 169.3, 170.0 and 170.6 (s, C=O groups); δF (235 MHz, CDCl3, Me4Si) -141.88 ppm (d d, 1 JH,F 53.0, 2JH,F 12.5, F-1); r/z (Cl+, NH3) 331 (M+ -F, 100%)

reactant | fluorine | FF | F2
reactant | phenyl-1-thio-β-D-glucopyranoside tetraacetate | 1.7 mmol, 0.75 g | C(C)(=O)O[C@H]1[C@](S)(O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=CC=CC=C1 | C20H24O9S
reactant | iodine | 3.4 mmol, 0.86 g | II | I2
reactant | sodium | [Na] | Na
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | β-D-glucopyranosyl fluoride tetraacetate | 320mg, 54% | C(C)(=O)O.C(C)(=O)O.C(C)(=O)O.C(C)(=O)O.[C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)F | InChI=1S/C6H11FO5.4C2H4O2/c7-6-5(11)4(10)3(9)2(1-8)12-6;4*1-2(3)4/h2-6,8-11H,1H2;4*1H3,(H,3,4)/t2-,3-,4+,5-,6-;;;;/m1..../s1
